US07696216B2
G. Synthesis of 5-allyl-1-benzyl-6-hydroxy-4-(4-isopropyl-phenyl)-1H-quinazolin-2-one
A solution of 15 mg (39 μmol) (2-allyl-6-benzylamino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone and 2.5 mg sodium cyanate in 0.2 ml acetic acid is stirred at r.t. for 16 h. Aqueous sodium hydroxide solution is added and the product is extracted with dichloromethane.

reactant | (2-allyl-6-benzylamino-3-hydroxy-phenyl)-(4-isopropyl-phenyl)-methanone | 39 μmol, 15 mg | C(C=C)C1=C(C(=CC=C1O)NCC1=CC=CC=C1)C(=O)C1=CC=C(C=C1)C(C)C | C26H27NO2
reactant | sodium cyanate | 2.5 mg | [O-]C#N.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
product | 5-allyl-1-benzyl-6-hydroxy-4-(4-isopropyl-phenyl)-1H-quinazolin-2-one | C(C=C)C1=C2C(=NC(N(C2=CC=C1O)CC1=CC=CC=C1)=O)C1=CC=C(C=C1)C(C)C | C27H26N2O2
